US05730902
Preparation of (R)-4-(trans-4-(trans-4-(3-methylbutyl)cyclohexyl)-4-silacyclohexyl)-1-(2-fluorodecyloxy)-2,6-difluorobenzene
The general procedure of Example 1 was repeated using 4-(4-(trans-4-(3-methylbutyl)cyclohexyl)-4-phenyl-4-silacyclohexyl)-2,6-difluorophenol and (S)-2-fluoro-1-decanol, thereby obtaining the intended compound.

reactant | 4-(4-(trans-4-(3-methylbutyl)cyclohexyl)-4-phenyl-4-silacyclohexyl)-2,6-difluorophenol | CC(CC[C@@H]1CC[C@H](CC1)[Si]1(CCC(CC1)C1=CC(=C(C(=C1)F)O)F)C1=CC=CC=C1)C | C28H38F2OSi
reactant | (S)-2-fluoro-1-decanol | F[C@H](CO)CCCCCCCC | C10H21FO
product | (R)-4-(trans-4-(trans-4-(3-methylbutyl)cyclohexyl)-4-silacyclohexyl)-1-(2-fluorodecyloxy)-2,6-difluorobenzene | CC(CC[C@@H]1CC[C@H](CC1)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)OC[C@@H](CCCCCCCC)F)F)C | C32H53F3OSi
